### PR TITLE
Noncumu system (soundness logrel props)

### PR DESCRIPTION
**Pull request by jiangsy**

### CODE REVIEW

File: src/NonCumulative/Soundness/LogRel.agda [hunk 1]
```diff
@@ -127,11 +127,8 @@ record ΛRel i j k Δ t IT OT (σ : Subst ) f
             (R$ : ∀ {a a′} → a ≈ a′ ∈ PERDef.El j (λ l<k → univ (ΠI≤ i≡maxjk l<k)) jA → Ctx → Exp → Typ → D → Set) : Set where
   field
     IT-rel : RI Δ (IT [ σ ])
-    ap-rel : Rs Δ s (IT [ σ ]) b → (b∈ : b ∈′ PERDef.El j (λ l<k → univ (ΠI≤ i≡maxjk l<k)) jA) → ΛKripke Δ (t [ σ ] $ s) (OT [ σ , s ∶ IT [ σ ] ↙ j ]) f b (R$ b∈)
-
-  flipped-ap-rel : (b∈ : b ∈′ PERDef.El j (λ l<k → univ (ΠI≤ i≡maxjk l<k)) jA) → ∀ {s} → Rs Δ s (IT [ σ ]) b → ΛKripke Δ (t [ σ ] $ s) (OT [ σ , s ∶ IT [ σ ] ↙ j ]) f b (R$ b∈)
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/LogRel.agda:132]: you might need this flipped variant

File: src/NonCumulative/Soundness/LogRel.agda [hunk 2]
```diff
@@ -391,4 +388,4 @@ record _⊩s_∶_ Γ τ Γ′ : Set where
   field
     ⊩Γ   : ⊩ Γ
     ⊩Γ′  : ⊩ Γ′
-    krip : Δ ⊢s σ ∶ ⊩Γ ® ρ → GluSubst Δ τ ⊩Γ′ σ ρ
\ No newline at end of file
+    krip : Δ ⊢s σ ∶ ⊩Γ ® ρ → GluSubst Δ τ ⊩Γ′ σ ρ
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/LogRel.agda]: space

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 3]
```diff
@@ -49,10 +54,17 @@ Glu-wellfounded-≡-Glul : ∀ {j k} →
   (λ {l} l<k → Glu-wellfounded (j + k) {l} (Li≤ refl l<k)) ≡ Glu-wellfounded k
 Glu-wellfounded-≡-Glul {j} {k} = implicit-extensionality fext (fext (λ l<k → Glu-wellfounded-≡′ (Li≤ {j + k} refl l<k) l<k))
 
-Glu-wellfounded-≡-GluΛ : ∀ {j k} →
+Glu-wellfounded-≡-GluΛI : ∀ {j k} →
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda]: why do you need all these specialized cases? abstract them into one common lemma, c.f. https://github.com/HuStmpHrrr/mech-type-theories/blob/db45fb402c6aab78a9bf554a0618655a11e64e9d/src/NonCumulative/Semantics/Properties/PER/Core.agda#L34

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 4]
```diff
@@ -62,7 +74,7 @@ Glu-wellfounded-≡-GluΛ {j} {k} = implicit-extensionality fext (fext (λ l<k 
 ®El⇒® N′ (_ , T≈N) = T≈N
 ®El⇒® (U _ _) t® = GluU.T≈ t®
 ®El⇒® (Π {j = j} {k = k} refl jA RT refl refl) record { t∶T = t∶T ; a∈El = a∈El ; IT = IT ; OT = OT ; ⊢IT = ⊢IT ; ⊢OT = ⊢OT ; T≈ = T≈ ; krip = krip }
-  rewrite 𝕌-wf-gen {max j k} k (λ l<k → ΠO≤ refl l<k) | Glu-wellfounded-≡-GluΛ {j} {k} = record
+  rewrite 𝕌-wf-gen {max j k} k (λ l<k → ΠO≤ refl l<k) | Glu-wellfounded-≡-GluΛO {j} {k} = record
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda]: `(λ l<k → ΠO≤ refl l<k)` => `( ΠO≤ refl)`?

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 5]
```diff
@@ -86,4 +98,712 @@ Glu-wellfounded-≡-GluΛ {j} {k} = implicit-extensionality fext (fext (λ l<k 
...
-®El⇒ty A≈B t∼a = ®⇒ty A≈B (®El⇒® A≈B t∼a)
\ No newline at end of file
+®El⇒ty A≈B t∼a = ®⇒ty A≈B (®El⇒® A≈B t∼a)
+
+private
+  s:IT®⇒⊢s : ∀ { j k b IT σ s} → 
+            (jA : A ≈ A′ ∈ PERDef.𝕌 j (λ l<j → 𝕌-wellfounded (max j k) (ΠI≤ refl l<j))) → 
+            Glu.⟦ j , (λ l<j → Glu-wellfounded (max j k) (ΠI≤ refl l<j)) , (λ l<j → 𝕌-wellfounded (max j k) (ΠI≤ refl l<j)) ⟧ Δ ⊢ s ∶ sub IT σ ® b ∈El jA →
+            Δ ⊢ s ∶[ j ] sub IT σ
+  s:IT®⇒⊢s {j = j} {k = k} jA tr rewrite 𝕌-wf-gen {max j k} j (λ l<k → ΠI≤ refl l<k) | Glu-wellfounded-≡-GluΛI {j} {k} = ®El⇒tm jA tr
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda]: probably no need to fill in `max j k`

Comment (HuStmpHrrr) [reply src/NonCumulative/Soundness/Properties/LogRel.agda]: avoid filling in unnecessary implicit arguments

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 6]
```diff
@@ -86,4 +98,712 @@ Glu-wellfounded-≡-GluΛ {j} {k} = implicit-extensionality fext (fext (λ l<k 
...
+®El-resp-≈ (Π {j = j} {k = k} refl jA RT refl refl) record { t∶T = t∶T ; a∈El = a∈El ; IT = IT ; OT = OT ; ⊢IT = ⊢IT ; ⊢OT = ⊢OT ; T≈ = T≈ ; krip = krip } t≈t′    
+  rewrite Glu-wellfounded-≡-GluΛO {j} {k} = record 
+  { t∶T = proj₁ (proj₂ (proj₂ (presup-≈ t≈t′)))
+  ; a∈El = a∈El
+  ; IT = IT
+  ; OT = OT
+  ; ⊢IT = ⊢IT
+  ; ⊢OT = ⊢OT
+  ; T≈ = T≈
+  ; krip = λ ⊢σ → let open ΛRel (krip ⊢σ) in record
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda]: consider using a lemma in a where clause. let expressions are expanded during type checking

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 7]
```diff
@@ -86,4 +98,712 @@ Glu-wellfounded-≡-GluΛ {j} {k} = implicit-extensionality fext (fext (λ l<k 
...
+              Δ ⊢ t ∶ T ®[ i ] a ∈El A≈B
+®El-resp-⊢≈ (ne′ x) (ne c≈c′ refl _ , glu) Γ≈Δ = (ne c≈c′ refl refl) , record 
+  { t∶T = ctxeq-tm Γ≈Δ t∶T
+  ; ⊢T = ctxeq-tm Γ≈Δ ⊢T
+  ; krip = λ ⊢σ → krip (⊢w-resp-⊢≈ʳ ⊢σ (⊢≈-sym Γ≈Δ)) 
+  }
+  where open GluNe glu
+®El-resp-⊢≈ N′ (t®N , T≈N) Γ≈Δ = (®Nat-resp-⊢≈ t®N Γ≈Δ) , ctxeq-≈ Γ≈Δ T≈N
+®El-resp-⊢≈ (U {j} refl refl) t® Γ≈Δ 
+  rewrite Glu-wellfounded-≡-GluU {j} rewrite 𝕌-wf-gen j (λ l<j → <-trans l<j (s≤s (≤-reflexive refl))) = record
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda]: pipe

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 8]
```diff
@@ -86,4 +98,712 @@ Glu-wellfounded-≡-GluΛ {j} {k} = implicit-extensionality fext (fext (λ l<k 
...
+             Γ ⊢ t′ ∶ T ®[ i ] a ∈El A≈B
+®El-resp-≈ (ne C≈C j≡1+i j′≡1+i) (ne c≈c′ refl _ , glu) t≈t′ = ne c≈c′ refl refl , record 
+  { t∶T = proj₁ (proj₂ (proj₂ (presup-≈ t≈t′)))
+  ; ⊢T = ⊢T
+  ; krip = λ ⊢σ → proj₁ (krip ⊢σ) , ≈-trans ([]-cong (≈-sym t≈t′) (s-≈-refl (⊢w⇒⊢s ⊢σ))) (proj₂ (krip ⊢σ)) 
+  }
+  where open GluNe glu
+®El-resp-≈ N′ (t® , T≈N) t≈t′ = ®Nat-resp-≈ t® (≈-conv t≈t′ T≈N) , T≈N
+®El-resp-≈ (U {j} refl refl) record { t∶T = t∶T ; T≈ = T≈ ; A∈𝕌 = A∈𝕌 ; rel = rel } t≈t′ 
+  rewrite Glu-wellfounded-≡-GluU {j} rewrite 𝕌-wf-gen j (λ l<j → <-trans l<j (s≤s (≤-reflexive refl))) = record
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda]: pipe

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 9]
```diff
@@ -86,4 +98,712 @@ Glu-wellfounded-≡-GluΛ {j} {k} = implicit-extensionality fext (fext (λ l<k 
...
+               Δ ⊢ T [ σ ] ≈ Ne⇒Exp (proj₁ (c′≈c  (len Δ))) ∶[ 1 + i ] Se i
+      helper {Δ} {σ} ⊢σ
+        with c≈c′ (len Δ) | c′≈c  (len Δ) | krip ⊢σ
+      ...  | _ , ↘u , _ | _ , _ , ↘u₁ | Tσ≈
+           rewrite Re-det ↘u ↘u₁ = Tσ≈
+  ®-swap N′ N′ T® = T®
+  ®-swap (U refl refl) (U i≡1+j j≡j′) T® 
+    rewrite ≡-irrelevant i≡1+j refl = T®
+  ®-swap {_} {_} {Γ} (Π′ {j} {k} jA RT) (Π i≡maxjk jA′ RT′ j≡j′ k≡k′) record { IT = IT ; OT = OT ; ⊢IT = ⊢IT ; ⊢OT = ⊢OT ; T≈ = T≈ ; krip = krip } 
+    rewrite ≡-irrelevant i≡maxjk refl | Glu-wellfounded-≡-GluΛI {j} {k} | Glu-wellfounded-≡-GluΛO {j} {k} | 𝕌-wf-gen {max j k} k (λ l<j → ΠO≤ refl l<j) = record
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda]: use new lines for long rewrites. check other files for an example

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 10]
```diff
@@ -86,4 +98,712 @@ Glu-wellfounded-≡-GluΛ {j} {k} = implicit-extensionality fext (fext (λ l<k 
...
+    }
+    where IT-helper : ∀ {k′} → 
+                      (jA : A ≈ A′ ∈ PERDef.𝕌 j (λ l<j → 𝕌-wellfounded (max j k′) (ΠI≤ refl l<j))) → 
+                      (jA′ : A′ ≈ A ∈ PERDef.𝕌 j (λ l<j → 𝕌-wellfounded (max j k′) (ΠI≤ refl l<j))) → 
+                      Glu.⟦ j , Glu-wellfounded j , (λ l<j → 𝕌-wellfounded (max j k′) (ΠI≤ refl l<j))⟧ Δ ⊢ sub IT σ ® jA → 
+                      -----------------------------------
+                      Glu.⟦ j , Glu-wellfounded j , (λ l<j → 𝕌-wellfounded (max j k′) (ΠI≤ refl l<j))⟧ Δ ⊢ sub IT σ ® jA′
+          IT-helper {k′ = k′} jA jA′ T® rewrite 𝕌-wf-gen {max j k′} j (λ l<j → ΠI≤ refl l<j) = ®-swap jA jA′ T®
+
+          ap-helper : ∀ {k′} →
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda]: this is a bit too much, making the helper very challenging to read. let's discuss it later

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 11]
```diff
@@ -86,4 +98,712 @@ Glu-wellfounded-≡-GluΛ {j} {k} = implicit-extensionality fext (fext (λ l<k 
...
+    ; krip = λ ⊢σ → let open lKripke (krip ⊢σ) in record { ua = ua ; ↘ua = ↘ua ; ®ua = helper2 kA kA′ ®ua }
+    }
+    where helper : (kA : A ≈ A′ ∈ PERDef.𝕌 k (λ l<k → 𝕌-wellfounded (j + k) (Li≤ refl l<k))) → 
+                   (kA′ : A′ ≈ A ∈ PERDef.𝕌 k (λ l<k → 𝕌-wellfounded (j + k) (Li≤ refl l<k))) → 
+                   a ≈ b ∈ PERDef.El k (λ l<k → 𝕌-wellfounded (j + k) (Li≤ refl l<k)) kA → 
+                   -----------------------------------
+                   a ≈ b ∈ PERDef.El k (λ l<k → 𝕌-wellfounded (j + k) (Li≤ refl l<k)) kA′
+          helper kA kA′ a≈a′ rewrite 𝕌-wf-gen {j + k} k (λ l<k → Li≤ refl l<k) = El-swap kA kA′ a≈a′
+
+          helper2 : {a : D} →
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda]: subscript

File: src/NonCumulative/Soundness/LogRel.agda [hunk 12]
```diff
@@ -118,35 +116,36 @@ record ΛKripke Δ t T f a (R$ : Ctx → Exp → Typ → D → Set) : Set where
     ↘fa : f ∙ a ↘ fa
     ®fa : R$ Δ t T fa
 
-record ΛRel i j k Δ t IT OT (σ : Subst ) f
-            (i≡maxjk : i ≡ max j k)
-            (univ : ∀ {l} → l < i → Ty)
-            (jA : A ≈ B ∈ PERDef.𝕌 j (λ i′<j → univ (ΠI≤ i≡maxjk i′<j)))
+record ΛRel j Δ t IT OT (σ : Subst ) f
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/LogRel.agda]: space

File: src/NonCumulative/Soundness/LogRel.agda (hunk 1 above)
Comment (jiangsy) [reply src/NonCumulative/Soundness/LogRel.agda:132]: I checked that there was only one place that used the flipped variant. I change the order of `with` in that proof so it's not used anymore there. I think it's safe to remove it.

File: src/NonCumulative/Semantics/Properties/PER.agda [hunk 13]
```diff
@@ -469,6 +469,48 @@ El-refl {i = i} A≈B a≈b = El-one-sided (𝕌-trans A≈B (𝕌-sym A≈B)) A
...
                                                  (El-sym A≈B (𝕌-sym A≈B) a≈b))
 
+El-L-𝕌 : ∀ {i j k}
+           (A≈A′ : A ≈ A′ ∈ 𝕌 k) →
+           (i≡j+k : i ≡ j + k) →
+           a ≈ a′ ∈ El _ (L-𝕌 A≈A′ i≡j+k) →
+           a ≈ a′ ∈ Unli (El _ A≈A′)
+El-L-𝕌 {i = i} {j = j} {k = k} kA eq a∈
+  with (L-𝕌 kA eq)
+El-L-𝕌 {i = i} {j = j} {k = k} kA eq record { ua = ua ; ub = ub ; ↘ua = ↘ua ; ↘ub = ↘ub ; ua≈ub = ua≈ub } | L i≡′j+k kA′ _ _
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Semantics/Properties/PER.agda]: either expand `a∈` early or use `with` to expand it, then keep this line `...`.

File: src/NonCumulative/Semantics/Properties/PER.agda [hunk 14]
```diff
@@ -469,6 +469,48 @@ El-refl {i = i} A≈B a≈b = El-one-sided (𝕌-trans A≈B (𝕌-sym A≈B)) A
...
+  rewrite 𝕌-wf-gen k (Li≤′ j k i≡′j+k) = record { ua = ua ; ub = ub ; ↘ua = ↘ua ; ↘ub = ↘ub ; ua≈ub = El-one-sided kA′ kA ua≈ub }
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Semantics/Properties/PER.agda]: style, new lines for records.

File: src/NonCumulative/Semantics/Properties/PER.agda [hunk 15]
```diff
@@ -469,6 +469,48 @@ El-refl {i = i} A≈B a≈b = El-one-sided (𝕌-trans A≈B (𝕌-sym A≈B)) A
...
+
+El-Π-𝕌 : ∀ {i j k} →
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Semantics/Properties/PER.agda:488]: this looks exactly the second projection of `Π-bundle` to me. What's the difference? Same for L,

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 16]
```diff
@@ -86,4 +88,620 @@ Glu-wellfounded-≡-GluΛ {j} {k} = implicit-extensionality fext (fext (λ l<k 
...
+      ; ap-rel = λ t® b∈ →
+        let open ΛKripke (ap-rel t® b∈)
+        in record
+          { fa = fa
+          ; ↘fa = ↘fa
+          ; ®fa = ®El-resp-≈ (ΠRT.T≈T′ (RT b∈)) ®fa (t[σ]≈t′[σ]s (⊢w⇒⊢s ⊢σ) (®El⇒tm jA t®))
+          }
+      }
+  }
+    where t[σ]≈t′[σ]s : Δ ⊢s σ ∶ Γ →
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda]: right, much better looking

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 17]
```diff
@@ -86,4 +88,620 @@ Glu-wellfounded-≡-GluΛ {j} {k} = implicit-extensionality fext (fext (λ l<k 
...
+®El-resp-≈ N′ (t® , T≈N) t≈t′ = ®Nat-resp-≈ t® (≈-conv t≈t′ T≈N) , T≈N
+®El-resp-≈ (U′ {j}) record { t∶T = t∶T ; T≈ = T≈ ; A∈𝕌 = A∈𝕌 ; rel = rel } t≈t′
+  rewrite 𝕌-wf-gen j (λ l<j → <-trans l<j (s≤s (≤-reflexive refl)))
+        | Glu-wf-gen {j} j U≤′ = record
+    { t∶T = proj₁ (proj₂ (proj₂ (presup-≈ t≈t′)))
+    ; T≈  = T≈
+    ; A∈𝕌 = A∈𝕌
+    ; rel = ®-resp-≈ A∈𝕌 rel (≈-conv t≈t′ T≈)
+    }
+®El-resp-≈ {Γ = Γ} {t = t} {t′ = t′} (Π′ {j = j} {k = k} jA RT) record { t∶T = t∶T ; a∈El = a∈El ; IT = IT ; OT = OT ; ⊢IT = ⊢IT ; ⊢OT = ⊢OT ; T≈ = T≈ ; krip = krip } t≈t′
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda]: can we open this record instead of expanding it? same everywhere.

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 18]
```diff
@@ -86,4 +88,620 @@ Glu-wellfounded-≡-GluΛ {j} {k} = implicit-extensionality fext (fext (λ l<k 
...
+              ---------------------------
+              Δ ⊢ t ∶ T ®[ i ] a ∈El A≈B
+®El-resp-⊢≈ (ne′ x) (ne c≈c′ refl _ , glu) Γ≈Δ = (ne c≈c′ refl refl) , record
+  { t∶T = ctxeq-tm Γ≈Δ t∶T
+  ; ⊢T = ctxeq-tm Γ≈Δ ⊢T
+  ; krip = λ ⊢σ → krip (⊢w-resp-⊢≈ʳ ⊢σ (⊢≈-sym Γ≈Δ))
+  }
+  where open GluNe glu
+®El-resp-⊢≈ N′ (t®N , T≈N) Γ≈Δ = (®Nat-resp-⊢≈ t®N Γ≈Δ) , ctxeq-≈ Γ≈Δ T≈N
+®El-resp-⊢≈ (U {j} refl refl) t® Γ≈Δ
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda]: `U'`

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 19]
```diff
@@ -86,4 +88,620 @@ Glu-wellfounded-≡-GluΛ {j} {k} = implicit-extensionality fext (fext (λ l<k 
...
+                                      (≈-trans ([∘]-Se ⊢OT IT,Δ⊢s (⊢I,t ⊢Δ Δ⊢IT[σ] ⊢s))
+                                               ([]-cong-Se″ ⊢OT
+                                                            (s-∘ (s-, (s-I ⊢Δ) Δ⊢IT[σ] (conv ⊢s (≈-sym ([I] Δ⊢IT[σ])))) IT,Δ⊢s)
+                                                            (qσ∘[I,t]≈σ,t ⊢Δ ⊢IT ⊢σ′ ⊢s)))
+            where ⊢Δ      = (proj₁ (presup-s ⊢σ′))
+                  Δ⊢IT[σ] = t[σ]-Se ⊢IT ⊢σ′
+                  IT,Δ⊢s  = ⊢q ⊢Δ ⊢σ′ ⊢IT
+                  Δ⊢OT[σ] = t[σ]-Se ⊢OT IT,Δ⊢s
+
+®El-resp-≈ {i = i} (L {j = j} {k = k} refl kA refl refl) record { t∶T = t∶T ; UT = UT ; ⊢UT = ⊢UT ; a∈El = a∈El ; T≈ = T≈ ; krip = krip } t≈t′
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda]: `L'`. emacs will automatically change your constructors to abbreviated forms. it seems VS code doesn't do it.

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 20]
```diff
@@ -86,4 +88,620 @@ Glu-wellfounded-≡-GluΛ {j} {k} = implicit-extensionality fext (fext (λ l<k 
...
+    ; OT   = OT
+    ; ⊢IT  = ⊢IT
+    ; ⊢OT  = ⊢OT
+    ; T≈   = T≈
+    ; krip = λ ⊢σ → let open ΠRel (krip ⊢σ) in record
+      { IT-rel = ®-swap jA jA′ IT-rel
+      ; OT-rel = λ s® a∈ → OT-helper a∈ s® OT-rel
+      }
+    }
+    where OT-helper : (a∈′ : a ∈′ El j jA′) →
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda]: I hope you see why it was worth it.

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 21]
```diff
@@ -86,4 +88,620 @@ Glu-wellfounded-≡-GluΛ {j} {k} = implicit-extensionality fext (fext (λ l<k 
...
+                      Δ ⊢ s ∶ IT [ σ ] ®[ j ] a ∈El jA′ →
+                      (∀ {s a} → Δ ⊢ s ∶ IT [ σ ] ®[ j ] a ∈El jA →
+                        (a∈ : a ∈′ El j jA) →
+                        Δ ⊢ OT [ σ , s ∶ IT ↙ j ] ®[ k ] ΠRT.T≈T′ (RT a∈)) →
+                      --------------------------------------------------------------
+                      Δ ⊢ OT [ σ , s ∶ IT ↙ j ] ®[ k ] ΠRT.T≈T′ (RT′ a∈′)
+          OT-helper a∈′ s® OT-rel
+            with El-sym jA′ jA a∈′
+          ... | a∈
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda]: style: customarily, the pipe on the next line should  align with the last character of the keyword (`with`, `rewrite`) on the previous line. Emacs can do it quite easily.

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 22]
```diff
@@ -86,4 +88,620 @@ Glu-wellfounded-≡-GluΛ {j} {k} = implicit-extensionality fext (fext (λ l<k 
...
+  }
+  where open GluNe glu
+        ⊢σ′ = ⊢w⇒⊢s ⊢σ
+
+        helper : ∀ {Δ′ τ} → Δ′ ⊢w τ ∶ Δ →
+                 -------------------------------------------------
+                 Δ′ ⊢ T [ σ ] [ τ ] ≈ Ne⇒Exp (proj₁ (C≈′C′ (len Δ′))) ∶[ 1 + i ] Se i
+                  × Δ′ ⊢ t [ σ ] [ τ ] ≈ Ne⇒Exp (proj₁ (c≈c (len Δ′))) ∶[ i ] T [ σ ] [ τ ]
+        helper {Δ′ = Δ′} {τ = τ} ⊢τ
+          with C≈C′ (len Δ′) | C≈′C′ (len Δ′) | c≈c (len Δ′) | krip (⊢w-∘ ⊢σ ⊢τ)
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda:620]: style: line up these lines a bit more carefully. a bit difficult to read.

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 23]
```diff
@@ -86,4 +88,620 @@ Glu-wellfounded-≡-GluΛ {j} {k} = implicit-extensionality fext (fext (λ l<k 
...
+        ... | V , ↘V , _ | V′ , ↘V′ , _ | u , ↘u , _ | Tστ≈ , tστ≈
+          rewrite Re-det ↘V ↘V′ = (≈-trans ([∘]-Se ⊢T ⊢σ′ ⊢τ′) Tστ≈) , ≈-conv (≈-trans (≈-sym ([∘] ⊢τ′ ⊢σ′ t∶T)) tστ≈) (≈-sym ([∘]-Se ⊢T ⊢σ′ ⊢τ′))
+          where ⊢τ′ = ⊢w⇒⊢s ⊢τ
+®El-mon N′ N′ (t®Nat , T≈N) ⊢σ = ®Nat-mon t®Nat ⊢σ , ≈-trans ([]-cong-Se′ T≈N (⊢w⇒⊢s ⊢σ)) (N-[] (⊢w⇒⊢s ⊢σ))
+®El-mon (U′ {j}) (U i≡1+j j≡j′) record { t∶T = t∶T ; T≈ = T≈ ; A∈𝕌 = A∈𝕌 ; rel = rel } ⊢σ
+  rewrite ≡-irrelevant i≡1+j refl | Glu-wf-gen {j} j U≤′ | 𝕌-wf-gen j (λ l<j → <-trans l<j (s≤s (≤-reflexive refl))) = record
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda]: style: new lines

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 24]
```diff
@@ -86,4 +88,620 @@ Glu-wellfounded-≡-GluΛ {j} {k} = implicit-extensionality fext (fext (λ l<k 
...
+  }
+  where ⊢σ′ = ⊢w⇒⊢s ⊢σ
+®El-mon {Γ = Γ} {t = t} {T = T} {Δ = Δ} {σ = σ} (Π′ {j} {k} jA RT) (Π i≡maxjk jA′ RT′ _ _) record { t∶T = t∶T ; a∈El = a∈El ; IT = IT ; OT = OT ; ⊢IT = ⊢IT ; ⊢OT = ⊢OT ; T≈ = T≈ ; krip = krip } ⊢σ
+  rewrite ≡-irrelevant i≡maxjk refl
+        | 𝕌-wf-gen j (ΠI≤′ j k refl)
+        | 𝕌-wf-gen k (ΠO≤′ j k refl)
+        | Glu-wf-gen j (ΠI≤′ j k refl)
+        | Glu-wf-gen k (ΠO≤′ j k refl)
+  with Π≈Π′ , f≈f′∈ElΠ ← Π-bundle jA (λ a≈b → RT a≈b , a∈El a≈b) refl = record
+  { t∶T  = t[σ] t∶T ⊢σ′
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda]: style: indentations, same below

**Comment by HuStmpHrrr** [comment]
looks good to me. there is still some minor technical points. otherwise ready to merge. try to address these technical points in this PR so it gets merged. you can address style issues in another PR.

File: src/NonCumulative/Semantics/Properties/PER.agda (hunk 13 above)
Comment (HuStmpHrrr) [reply src/NonCumulative/Semantics/Properties/PER.agda]: or use `open`, which is preferred.

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 25]
```diff
@@ -62,22 +62,24 @@ Glu-wellfounded-≡-GluΛ {j} {k} = implicit-extensionality fext (fext (λ l<k 
...
 ®El⇒® (Π {j = j} {k = k} refl jA RT refl refl) record { t∶T = t∶T ; a∈El = a∈El ; IT = IT ; OT = OT ; ⊢IT = ⊢IT ; ⊢OT = ⊢OT ; T≈ = T≈ ; krip = krip }
-  rewrite 𝕌-wf-gen {max j k} k (λ l<k → ΠO≤ refl l<k) | Glu-wellfounded-≡-GluΛ {j} {k} = record
-  { IT = IT
-  ; OT = OT
-  ; ⊢IT = ⊢IT
-  ; ⊢OT = ⊢OT
-  ; T≈ = T≈
+  rewrite 𝕌-wf-gen k (ΠO≤′ j k refl)
+        | Glu-wf-gen k (ΠO≤′ j k refl) = record
+  { IT   = IT
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda]: style: inconsistent indentations. add two more spaces.

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 26]
```diff
@@ -86,4 +88,620 @@ Glu-wellfounded-≡-GluΛ {j} {k} = implicit-extensionality fext (fext (λ l<k 
...
+®El-resp-⊢≈ (U {j} refl refl) t® Γ≈Δ
+  rewrite Glu-wf-gen {j} j U≤′
+        | 𝕌-wf-gen j (λ l<j → <-trans l<j (s≤s (≤-reflexive refl))) = record
+  { t∶T = ctxeq-tm Γ≈Δ t∶T
+  ; T≈  = ctxeq-≈ Γ≈Δ T≈
+  ; A∈𝕌 = A∈𝕌
+  ; rel = ®-resp-⊢≈ A∈𝕌 rel Γ≈Δ
+  }
+  where open GluU t®
+®El-resp-⊢≈ (Π eq jA x x₁ x₂) t® Γ≈Δ =
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda]: bad naming

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 27]
```diff
@@ -86,4 +88,620 @@ Glu-wellfounded-≡-GluΛ {j} {k} = implicit-extensionality fext (fext (λ l<k 
...
+  ®El-swap (Π′ {j} {k} jA RT) (Π i≡maxjk jA′ RT′ j≡j′ k≡k′) record { t∶T = t∶T ; a∈El = a∈El ; IT = IT ; OT = OT ; ⊢IT = ⊢IT ; ⊢OT = ⊢OT ; T≈ = T≈ ; krip = krip }
+    rewrite ≡-irrelevant i≡maxjk refl
+          | 𝕌-wf-gen j (ΠI≤′ j k refl)
+          | 𝕌-wf-gen k (ΠO≤′ j k refl)
+          | Glu-wf-gen j (ΠI≤′ j k refl)
+          | Glu-wf-gen k (ΠO≤′ j k refl)
+    with Π≈Π′ , f≈f′∈ElΠ ← Π-bundle jA (λ a≈b → RT a≈b , a∈El a≈b) refl
+          = record
+    { t∶T  = t∶T
+    ; a∈El = El-Π-𝕌 i≡maxjk jA′ RT′ (El-swap Π≈Π′ (Π-𝕌 jA′ RT′ i≡maxjk) f≈f′∈ElΠ)
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda]: why is this necessary? show me in the next meeting.

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 28]
```diff
@@ -86,4 +88,620 @@ Glu-wellfounded-≡-GluΛ {j} {k} = implicit-extensionality fext (fext (λ l<k 
...
+              with RT b∈ | RT′ b∈′ | ap-rel (®El-swap jA′ jA s®) b∈
+          ... | record { ↘⟦T⟧ = ↘⟦T⟧ ; ↘⟦T′⟧ = ↘⟦T′⟧ ; T≈T′ = T≈T′ }
+              | record { ↘⟦T⟧ = ↘⟦T′⟧₁ ; ↘⟦T′⟧ = ↘⟦T⟧₁ ; T≈T′ = T′≈T }
+              | record { fa = fa ; ↘fa = ↘fa ; ®fa = ®fa }
+              rewrite ⟦⟧-det ↘⟦T⟧ ↘⟦T⟧₁
+                    | ⟦⟧-det ↘⟦T′⟧ ↘⟦T′⟧₁ = record { fa = fa ; ↘fa = ↘fa ; ®fa = ®El-swap T≈T′ T′≈T ®fa }
+
+  ®El-swap (L′ {j} {k} kA) (L i≡j+k kA′ j≡j′ k≡k′) record { t∶T = t∶T ; UT = UT ; ⊢UT = ⊢UT ; a∈El = a∈El ; T≈ = T≈ ; krip = krip }
+    rewrite ≡-irrelevant i≡j+k refl
+          | 𝕌-wf-gen {j + k} k (Li≤ refl)
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda]: style: implicit arguments

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 29]
```diff
@@ -86,4 +88,620 @@ Glu-wellfounded-≡-GluΛ {j} {k} = implicit-extensionality fext (fext (λ l<k 
...
+          | Glu-wf-gen k (Li≤′ j k refl)
+    with Li≈Li′ , a≈a′∈ElLi ← L-bundle {j = j} kA a∈El refl = record
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda]: is the implicit argument necessary?

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 30]
```diff
@@ -86,4 +88,620 @@ Glu-wellfounded-≡-GluΛ {j} {k} = implicit-extensionality fext (fext (λ l<k 
...
+                      Δ ⊢ s ∶ IT [ σ ] ®[ j ] a ∈El jA′ →
+                      (∀ {s a} → Δ ⊢ s ∶ IT [ σ ] ®[ j ] a ∈El jA →
+                        (a∈ : a ∈′ El j jA) →
+                        Δ ⊢ OT [ σ , s ∶ IT ↙ j ] ®[ k ] ΠRT.T≈T′ (RT a∈)) →
+                      --------------------------------------------------------------
+                      Δ ⊢ OT [ σ , s ∶ IT ↙ j ] ®[ k ] ΠRT.T≈T′ (RT′ a∈′)
+          OT-helper a∈′ s® OT-rel
+            with El-one-sided jA′ jA a∈′
+          ... | a∈
+              with (RT a∈) | RT′ a∈′ | OT-rel (®El-one-sided jA′ jA s®) a∈
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda]: style: parentheses

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 31]
```diff
@@ -86,4 +88,620 @@ Glu-wellfounded-≡-GluΛ {j} {k} = implicit-extensionality fext (fext (λ l<k 
...
+          krip′ : Δ ⊢w σ ∶ Γ →
+                  -----------------------------------
+                  Δ ⊢ T [ σ ] ≈ Ne⇒Exp (proj₁ (C≈C″ (L.length Δ))) ∶[ ℕ.suc i ] Se i
+                  × Δ ⊢ t [ σ ] ≈ Ne⇒Exp (proj₁ (c≈c (L.length Δ))) ∶[ i ] T [ σ ]
+          krip′ {Δ} {σ} ⊢σ
+            with C≈C′ (len Δ) | C≈C″ (len Δ) | krip ⊢σ
+          ...  | u , ↘u , _ | u′ , ↘u′ , _ | Tσ≈ , tσ≈
+               rewrite Re-det ↘u ↘u′ = Tσ≈ , tσ≈
+  ®El-one-sided N′ N′ t® = t®
+  ®El-one-sided (U′ {_}) (U i≡1+j j≡j′) t®
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda]: why `{_}` if it's not used?

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 32]
```diff
@@ -86,4 +88,620 @@ Glu-wellfounded-≡-GluΛ {j} {k} = implicit-extensionality fext (fext (λ l<k 
...
+        ap-helper {Δ′ = Δ′} {τ = τ} {s = s} ⊢τ b∈′ s®′ ap-rel
+          with El-one-sided jA′ jA b∈′
+        ... | b∈
+            with ®El-one-sided jA′ jA (®El-resp-T≈ jA′ s®′ ([∘]-Se ⊢IT ⊢σ′ (⊢w⇒⊢s ⊢τ)))
+        ... | s®
+              with RT b∈ | RT′ b∈′ | (ap-rel s® b∈)
+        ... | record { ⟦T⟧ = ⟦T⟧ ; ↘⟦T⟧ = ↘⟦T⟧ ; T≈T′ = T≈T′ }
+            | record { ↘⟦T⟧ = ↘⟦T⟧′ ; T≈T′ = T≈T′₁ }
+            | record { fa = fa ; ↘fa = ↘fa ; ®fa = ®fa }
+                rewrite ⟦⟧-det ↘⟦T⟧′ ↘⟦T⟧ = record { fa = fa ; ↘fa = ↘fa ; ®fa = ®El-one-sided T≈T′ T≈T′₁ (®El-resp-≈ T≈T′ (®El-resp-T≈ T≈T′ ®fa OT,≈) t[στ]s≈t[σ][τ]s) }
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda]: style: new lines

File: src/NonCumulative/Soundness/LogRel.agda [hunk 33]
```diff
@@ -78,27 +76,27 @@ record GluΠ i j k Γ T {A B}
...
     T≈   : Γ ⊢ T ≈ Π (IT ↙ j) (OT ↙ k) ∶[ 1 + i ] Se i
-    krip : Δ ⊢w σ ∶ Γ → ΠRel i j k Δ IT OT σ i≡maxjk univ jA RI RO Rs
+    krip : Δ ⊢w σ ∶ Γ → ΠRel j Δ IT OT σ univj jA RI RO Rs
 
 
 -- Gluing model for universes
 
 -- ...
 record GluU j i Γ t T A
             (i≡1+j : i ≡ 1 + j)
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/LogRel.agda]: minor: is this equality proof still used?

File: src/NonCumulative/Soundness/Properties/LogRel.agda (hunk 29 above)
Comment (jiangsy) [reply src/NonCumulative/Soundness/Properties/LogRel.agda]: yes, otherwise Agda will complain, though it should guess `j` from `refl`

File: src/NonCumulative/Semantics/Properties/PER.agda (hunk 15 above)
Comment (jiangsy) [reply src/NonCumulative/Semantics/Properties/PER.agda:488]: I think it's necessary because the `El _ (L-𝕌 A≈A′ i≡j+k)` would not be automatically reduced by Agda since it does not match the definition of the `L` case in `PERDef.El`. We can discuss this in detail next meeting.

**Comment by HuStmpHrrr** [comment]
yeah looks good.

**Review by HuStmpHrrr — APPROVED** [review]
